US07141561B2
1-Allyl-1-(4-benzyloxyphenyl)-3-(4-phenoxyphenyl)urea
Carbonyldiimidazole (136 mg) was added to a solution of 4-phenoxyaniline (155 mg) in dimethylformamide (3 mL) at 0° C. After 30 minutes, allyl-(4-benzyloxyphenyl)amine (200 mg) was added and the temperature was increased to 80° C. for 2 hours. A further 2 hours at 120° C., the reaction solution was cooled and then purified by preparative HPLC. The product with the molecular weight of 450.54 (C29H26N2O3); MS (ESI): 451 ([M+H]+), was obtained in this way.

reactant | Carbonyldiimidazole | 136 mg | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | 4-phenoxyaniline | 155 mg | O(C1=CC=CC=C1)C1=CC=C(N)C=C1 | C12H11NO
reactant | allyl-(4-benzyloxyphenyl)amine | 200 mg | C(C=C)NC1=CC=C(C=C1)OCC1=CC=CC=C1 | C16H17NO
solvent | dimethylformamide | 3 mL | CN(C=O)C | C3H7NO
product | 1-Allyl-1-(4-benzyloxyphenyl)-3-(4-phenoxyphenyl)urea | C(C=C)N(C(=O)NC1=CC=C(C=C1)OC1=CC=CC=C1)C1=CC=C(C=C1)OCC1=CC=CC=C1 | C29H26N2O3
